US05484761
2-(2,2,2-Trifluoro-1-methylethoxy)-4-pyridinol (0.64 g, 3.09 mmol), 3-chloro-5-methoxy-pyridazine (0.44 g, 3.09 mmol), potassium carbonate (0.85 g, 6.18 mmol) and CuBr (0.89 g, 6.18 mmol) were stirred under nitrogen in diglyme (5 mL) at 100° C. for 6 days. The mixture was then poured in water and extracted several times with ethyl acetate. The combined organic layers were dried (MgSO4), filtered and evaporated in-vacuo. The crude product was purified by flash chromatography to give 5-methoxy-3-[[2-(2,2,2-trifluoro-1-methylethoxy)-4-pyridinyl]oxy]pyridazine (0.42 g, 43% yield, Compound No. 10) as a white solid, mp=100° C. -102° C.

reactant | 2-(2,2,2-Trifluoro-1-methylethoxy)-4-pyridinol | 3.09 mmol, 0.64 g | FC(C(OC1=NC=CC(=C1)O)C)(F)F | C8H8F3NO2
reactant | 3-chloro-5-methoxy-pyridazine | 3.09 mmol, 0.44 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | potassium carbonate | 6.18 mmol, 0.85 g | C([O-])([O-])=O.[K+].[K+]
solvent | diglyme | 5 mL | COCCOCCOC | C6H14O3
solvent | water | O | H2O
product | 5-methoxy-3-[[2-(2,2,2-trifluoro-1-methylethoxy)-4-pyridinyl]oxy]pyridazine | 0.42 g, 43% yield | COC=1C=C(N=NC1)OC1=CC(=NC=C1)OC(C(F)(F)F)C | C13H12F3N3O3
